US03944531
geranyl bromide was reacted with vanillic acid N,N-diethyl amide to obtain p-geranyloxy-m-methoxy-N,N-diethyl-benzamide (boiling point = 180°/0.05 mmHg);

reactant | geranyl bromide | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | vanillic acid N,N-diethyl amide | C(C)N(C(C1=CC(OC)=C(O)C=C1)=O)CC | C12H17NO3
product | p-geranyloxy-m-methoxy-N,N-diethyl-benzamide | C(\C=C(/C)\CCC=C(C)C)OC1=C(C=C(C(=O)N(CC)CC)C=C1)OC | C22H33NO3
